US07423177B2
4-aminophenol (550 mg; 5 mmol) is added to a solution of butyric acid (1.4 mL; 15 mmol) in DCM (20 mL) at room temperature and stirred vigorously. To this solution DCC (2.48 g; 12 mmol) is added followed by DMAP (24 mg) and the contents stirred overnight at room temperature. The reaction mixture is then filtered and washed with DCM. The filtrate is concentrated and redissolved in methanol, added with 10% aqueous sodium bicarbonate solution and stirred vigorously until diacylated byproduct disappeared (as detected by LC-MS) to yield 4-butyramidophenol as the only product. The product was used for further transformation without further purification.

reactant | 4-aminophenol | 5 mmol, 550 mg | NC1=CC=C(C=C1)O | C6H7NO
reactant | butyric acid | 15 mmol, 1.4 mL | C(CCC)(=O)O | C4H8O2
reactant | DCC | 12 mmol, 2.48 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 24 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-butyramidophenol | C(CCC)(=O)NC1=CC=C(C=C1)O | C10H13NO2
